US04788288
One g of N-acetyl-2-methoxypyrrolidine (largely E plus lesser an amounts of B, C and D), 0.9 g of 2,4-pentandiol and 240 mg of N-methyl-2-pyrrolidone internal standard were heated at 50°-55° C. in 1 mL of H2O. A separate sample was heated in 1 mL of EtOAc. Results in both samples were similar: rapid initial formation of a small peak at 8.02 min (cyclic hemiamidal of the diol?), followed by growth of major product peaks at 8.35 and 8.73 min, the epimeric cyclic acetals. Small quantities of dehydrated product; G (r.t.=4.75 min), and, in the aqueous sample, N-acetyl-2-hydroxypyrrolidine, F (before A at ~5.6 min) were also produced. One of the diols appeared to react faster and to a greater extent than the other. Measurements at 3-4 hr were close to the overnight values: ~87% conversion of A, 60-70% of B and essentially quantitative conversion of C and D.

reactant | N-acetyl-2-methoxypyrrolidine | C(C)(=O)N1C(CCC1)OC | C7H13NO2
reactant | 2,4-pentandiol | 0.9 g | CC(CC(C)O)O | C5H12O2
reactant | N-methyl-2-pyrrolidone | 240 mg | CN1C(CCC1)=O | C5H9NO
solvent | H2O | 1 mL | O | H2O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
product | N-acetyl-2-hydroxypyrrolidine | C(C)(=O)N1C(CCC1)O | C6H11NO2
